2156-08-25 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.6
F - [**2156-8-24**] 08:00 PM
   -Intubated around 6pm for failure to protect airway (tongue seemed to
   occlude airway).
   - Did well and was transitioned to CPAP
   CTA/CT abd/pelvis: PRELIM READ
   No central pulmonary embolism. Distal branches are not well evaluated
   due to respiratory motion.  No acute intra-abd process
   CT neck: PRELIM READ
   1. 4-cm gas-containing collection in the right neck for which infection
   cannot be excluded.
   2. Surgical changes related to ACDF. Soft tissue swelling involving the
   prevertebral and retropharyngeal soft tissues anterior to cervical
   fusion
   which may represent edema or phlegmonous change.
   3. Prevertebral soft tissue edema at the level of the [**Last Name (un) 1292**]- and
   oropharynx with subsequent narrowing of the airway
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-8-24**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-25**] 04:00 AM
   Metronidazole - [**2156-8-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-8-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-25**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.1
C (100.5
   HR: 76 (66 - 105) bpm
   BP: 135/76(90) {109/51(65) - 174/92(109)} mmHg
   RR: 18 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,681 mL
                                                                    980 mL
   PO:
             TF:
                                                                     40 mL
                                                                    208 mL
   IVF:
                                                                  2,296 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,164 mL
                                                                    690 mL
   Urine:
                                                                  1,164 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,517 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.44/45/125/28/6
   Ve: 9.5 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General: lying in bed with loud upper airway ronchi, improved when
   tongue held with tongue depressor
   HEENT: no icterus; pupils 3 mm equal and reactive
   Neck: 4 cm horizontal incision over right neck clean/dry/intact, though
   with moderate induration; no fluctuance
   Chest: loud expiratory ronchi with no wheezes or rales; strong cough
   CV: heart sounds obscured by ronchi; no murmur
   Abdomen: soft, nontender, nondistended, normal bowel sounds
   Neuro: not responding to voice or withdrawing to pain; right arm with
   purposeful movement and normal tone; left arm flaccid; 3+ patellar
   reflexes bilaterally (right slightly more than left)
   Skin:  Not assessed
   Labs / Radiology
   406 K/uL
   11.1 g/dL
   146 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.6 mEq/L
   17 mg/dL
   108 mEq/L
   144 mEq/L
   32.9 %
   17.5 K/uL
        [image002.jpg]
                             [**2156-8-18**]  02:27 AM
                             [**2156-8-18**]  07:04 AM
                             [**2156-8-18**]  10:18 AM
                             [**2156-8-19**]  01:17 AM
                             [**2156-8-19**]  01:20 AM
                             [**2156-8-20**]  02:06 AM
                             [**2156-8-20**]  02:21 AM
                             [**2156-8-24**]  08:20 PM
                             [**2156-8-25**]  03:18 AM
                             [**2156-8-25**]  03:30 AM
   WBC
   10.6
   13.4
   17.5
   Hct
   32.0
   34.5
   32.9
   Plt
   [**Telephone/Fax (3) 1301**]
   Cr
   0.5
   0.6
   0.7
   TCO2
   34
   33
   32
   35
   33
   31
   32
   Glucose
   159
   113
   112
   129
   146
   Other labs: PT / PTT / INR:13.4/29.2/1.1, Lactic Acid:1.1 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   56 year old man with severe traumatic brain injury now with tachypnea
   and difficulty protecting airway as well as fevers of unclear etiology.
   1.  Airway compromise: improves with oral airway, but unable to
   maintain patent airway due to mental status; per neurosurgery, this may
   improve with time, but will likely be a slow improvement
   - intubated to protect airway; ? need for tracheostomy
   - pulmonary toilet
   2. Tachypnea: likely due to fevers and aspiration; no evidence of
   pneumonitis/pneumonia on chest imaging; ABG wnl
   - fever control
   3. Fevers: source unclear; diarrhea raises concern for C Diff; CT scan
   with fluid collection at wound but, per neurosurgery, it appears
   consistent with post-operative change
   - appreciate ID recs
   - cont empiric vanco and pip/tazo; add metronidazole for empiric C Diff
   therapy and check C Diff toxin
   - f/u micro
   - consider LP to rule out CNS infection if fevers persist and workup
   remains unrevealing
   4. Traumatic brain injury:
   - cont levetiracetam for seizure prophylaxis
   5. Hypernatremia: increase free H2O in tube feeds
   6. Coagulopathy: likely nutritional
   - PO vitamin K
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-8-24**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-8-24**] 04:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-08-25 10:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man s/p head trauma and spinal trauma after fall.  C/B post-op
   fevers, respiratory failure.
   24 Hour Events:
 BLOOD CULTURED - At [**2156-8-24**] 02:22 PM
 URINE CULTURE - At [**2156-8-24**] 02:22 PM
 EKG - At [**2156-8-24**] 03:05 PM
 INVASIVE VENTILATION - START [**2156-8-24**] 05:40 PM
 FEVER - 103.6
F - [**2156-8-24**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-25**] 04:00 AM
   Metronidazole - [**2156-8-25**] 06:00 AM
   Vancomycin - [**2156-8-25**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-8-25**] 06:00 AM
   Other medications:
   protonix
   keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-25**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 38.4
C (101.2
   HR: 75 (66 - 105) bpm
   BP: 143/59(82) {109/51(65) - 174/92(109)} mmHg
   RR: 20 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,681 mL
                                                                  1,586 mL
   PO:
             TF:
                                                                     40 mL
                                                                    325 mL
   IVF:
                                                                  2,296 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  1,164 mL
                                                                    830 mL
   Urine:
                                                                  1,164 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,517 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.44/45/125/28/6
   Ve: 13.5 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Lungs: Clear, no rhonchi
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: Absent
   Skin:  Not assessed
   Neurologic: Opens eyes to voice.  No commands.  Left arm flaccid.
   Labs / Radiology
   11.1 g/dL
   406 K/uL
   146 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.6 mEq/L
   17 mg/dL
   108 mEq/L
   144 mEq/L
   32.9 %
   17.5 K/uL
        [image002.jpg]
                             [**2156-8-18**]  02:27 AM
                             [**2156-8-18**]  07:04 AM
                             [**2156-8-18**]  10:18 AM
                             [**2156-8-19**]  01:17 AM
                             [**2156-8-19**]  01:20 AM
                             [**2156-8-20**]  02:06 AM
                             [**2156-8-20**]  02:21 AM
                             [**2156-8-24**]  08:20 PM
                             [**2156-8-25**]  03:18 AM
                             [**2156-8-25**]  03:30 AM
   WBC
   10.6
   13.4
   17.5
   Hct
   32.0
   34.5
   32.9
   Plt
   [**Telephone/Fax (3) 1301**]
   Cr
   0.5
   0.6
   0.7
   TCO2
   34
   33
   32
   35
   33
   31
   32
   Glucose
   159
   113
   112
   129
   146
   Other labs: PT / PTT / INR:13.4/29.2/1.1, Lactic Acid:1.1 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: ?RLL infiltrate
   Microbiology: Sputum:  4+ GNRs and 2+ GPCs
   Assessment and Plan
   Respiratory failure:  Poor MS, has received no sedation, but largely
   unresponsive, although by report he has followed commands
   intermittently.
                  Will likely need trach and PEG.
   Fevers:  ?RLL infitrate.  Diarrhea has improved.  Sputum with positive
   gram stain.  Continue Vanco/Zosyn.
   If C. diff is negative, can d/c flagyl.
   F/E/N:  TFs with free water bolus.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-8-24**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-8-24**] 04:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-08-26 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2156-8-25**] 09:00 AM
   101.1 [**8-26**] at 8am
   Spoke with family- they are amenable to trach/peg.  However, pt seems
   more alert and is responding to simple commands.  [**Month (only) 51**] attempt
   extubation later today.
   Cultures pending.  C.diff x 2; blood,urine NGTD; sputum prelim GNR,
   GPC.  On vanc/zosyn; will d/c flagyl today.
   Continues to be coagulopathic.  INR today 1.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2156-8-25**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-26**] 04:31 AM
   Metronidazole - [**2156-8-26**] 05:46 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-8-25**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2156-8-26**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 65 (58 - 83) bpm
   BP: 124/61(74) {103/56(73) - 143/78(85)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,590 mL
                                                                  1,184 mL
   PO:
             TF:
                                                                  1,260 mL
                                                                    493 mL
   IVF:
                                                                  1,050 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                    535 mL
   Urine:
                                                                  2,265 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,325 mL
                                                                    649 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   SpO2: 98%
   ABG: ///31/
   Ve: 10.7 L/min
   Physical Examination
   Gen: awake, closes eyes in response to questions
   Neck: wound slightly erythematous, no drainage, incision C, D, I
   Ext: can squeeze with right fist, left arm flaccid with fingers flexed
   Lower Ext: very slight movement of RLE only.
   Labs / Radiology
   363 K/uL
   10.4 g/dL
   162 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.3 mEq/L
   15 mg/dL
   106 mEq/L
   143 mEq/L
   30.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2156-8-18**]  10:18 AM
                             [**2156-8-19**]  01:17 AM
                             [**2156-8-19**]  01:20 AM
                             [**2156-8-20**]  02:06 AM
                             [**2156-8-20**]  02:21 AM
                             [**2156-8-24**]  08:20 PM
                             [**2156-8-25**]  03:18 AM
                             [**2156-8-25**]  03:30 AM
                             [**2156-8-25**]  04:03 PM
                             [**2156-8-26**]  03:44 AM
   WBC
   10.6
   13.4
   17.5
   16.5
   Hct
   32.0
   34.5
   32.9
   30.4
   Plt
   [**Telephone/Fax (3) 1329**]63
   Cr
   0.5
   0.6
   0.7
   0.5
   0.5
   TCO2
   32
   35
   33
   31
   32
   Glucose
   159
   113
   112
   129
   146
   175
   162
   Other labs: PT / PTT / INR:19.9/35.8/1.9, Lactic Acid:1.1 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   56 year old man with severe traumatic brain injury (left basilar skull
   fx w/ right SDH and SAH)  now with tachypnea and difficulty protecting
   airway as well as fevers of unclear etiology.
   1.  Airway compromise: improved with oral airway, but unable to
   maintain patent airway due to mental status and was intubated on [**8-24**];
   per neurosurgery, this may improve with time, but will likely be a slow
   improvement.  Can consider extubation today as pt is more alert and
   able to communicate.  If cannot extubate may need tracheostomy.
   - pulmonary toilet
   2. Tachypnea: likely due to fevers and aspiration; no evidence of
   pneumonitis/pneumonia on chest imaging; ABG wnl
   - fever control
   3. Fevers: source unclear; diarrhea raises concern for C Diff; CT scan
   with fluid collection at wound but, per neurosurgery, it appears
   consistent with post-operative change
   - appreciate ID recs
   - cont empiric vanco and pip/tazo; d/c metronidazole as c.diff toxins
   neg x 2
   - NGTD for blood and urine cultures; continue to follow
   - consider LP to rule out CNS infection if fevers persist and workup
   remains unrevealing
   4. Traumatic brain injury:
   - cont levetiracetam for seizure prophylaxis
   5. Hypernatremia: resolved .  increased free H2O in tube feeds
   6. Coagulopathy: likely nutritional
   - PO vitamin K
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-8-25**] 07:43 PM 70 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-8-25**] 06:37 PM
   Prophylaxis:
   DVT: subq heparin; pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-08-26 12:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.2
F - [**2156-8-25**] 09:00 AM
   Continued fevers
   History obtained from Interpreter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-26**] 04:31 AM
   Metronidazole - [**2156-8-26**] 05:46 AM
   Vancomycin - [**2156-8-26**] 08:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-8-25**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2156-8-26**] 05:46 AM
   Other medications:
   protonix
   keppra
   chlorhex
   vitamin K
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-26**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.7
   HR: 71 (58 - 83) bpm
   BP: 147/68(85) {103/56(67) - 147/78(85)} mmHg
   RR: 22 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,595 mL
                                                                  2,076 mL
   PO:
             TF:
                                                                  1,265 mL
                                                                    838 mL
   IVF:
                                                                  1,050 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                  1,685 mL
   Urine:
                                                                  2,265 mL
                                                                  1,685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,330 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 452 (452 - 452) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Following
   commands this morning.  Not moving left arm or leg
   Labs / Radiology
   10.4 g/dL
   363 K/uL
   162 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.3 mEq/L
   15 mg/dL
   106 mEq/L
   143 mEq/L
   30.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2156-8-18**]  10:18 AM
                             [**2156-8-19**]  01:17 AM
                             [**2156-8-19**]  01:20 AM
                             [**2156-8-20**]  02:06 AM
                             [**2156-8-20**]  02:21 AM
                             [**2156-8-24**]  08:20 PM
                             [**2156-8-25**]  03:18 AM
                             [**2156-8-25**]  03:30 AM
                             [**2156-8-25**]  04:03 PM
                             [**2156-8-26**]  03:44 AM
   WBC
   10.6
   13.4
   17.5
   16.5
   Hct
   32.0
   34.5
   32.9
   30.4
   Plt
   [**Telephone/Fax (3) 1329**]63
   Cr
   0.5
   0.6
   0.7
   0.5
   0.5
   TCO2
   32
   35
   33
   31
   32
   Glucose
   159
   113
   112
   129
   146
   175
   162
   Other labs: PT / PTT / INR:19.9/35.8/1.9, Lactic Acid:1.1 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory Failure:  Is much more awake and alert today.  Will try to
   extubate - is currently following commands and mouthing words.
   Fevers: Unclear source.  on vanco/zosyn.  Continue to follow up
   cultures.
   head trauma:  Not moving left leg consistently, will let neurosurgery
   know.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-8-26**] 09:47 AM 70 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2156-8-25**] 06:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-08-27 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2156-8-26**] 02:00 PM
 BLOOD CULTURED - At [**2156-8-26**] 08:55 PM
 URINE CULTURE - At [**2156-8-26**] 08:56 PM
 BLOOD CULTURED - At [**2156-8-27**] 04:11 AM
 SPUTUM CULTURE - At [**2156-8-27**] 04:11 AM
 URINE CULTURE - At [**2156-8-27**] 04:11 AM
 FEVER - 101.1
F - [**2156-8-26**] 08:00 AM
   Fever O/N - UCx, BCx and Sputum Cx sent. CXR done on rads rounds
   Mental status clearer - following some commands, opening eyes.
   Attempted to place PICC yesterday but IV coiled in axillae.  Was pulled
   back and is ok to use as a midline.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole
 d/c [**8-26**]
   Vancomycin - [**2156-8-26**] 08:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-8-26**] 02:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-27**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.4
C (97.5
   HR: 72 (60 - 78) bpm
   BP: 134/64(79) {96/55(67) - 152/91(104)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,634 mL
                                                                     61 mL
   PO:
             TF:
                                                                    888 mL
   IVF:
                                                                    556 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    245 mL
   Urine:
                                                                  2,920 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (386 - 540) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/45/90
   Ve: 6.8 L/min
   Physical Examination
   Gen: opens eyes spontaneously and to voice; able to follow occasional
   simple commands
   Neck: Incision C,D,I.  No induration or fluctuance
   Pulm: coarse bs bilat but improving
   CV: reg rhythm
   Neuro: grimaces to pain in left UE, moves/makes fist with RUE.  Moves
   both feet, R>L.
   Labs / Radiology
   453 K/uL
   10.7 g/dL
   110 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   16 mg/dL
   107 mEq/L
   145 mEq/L
   32.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2156-8-19**]  01:20 AM
                             [**2156-8-20**]  02:06 AM
                             [**2156-8-20**]  02:21 AM
                             [**2156-8-24**]  08:20 PM
                             [**2156-8-25**]  03:18 AM
                             [**2156-8-25**]  03:30 AM
                             [**2156-8-25**]  04:03 PM
                             [**2156-8-26**]  03:44 AM
                             [**2156-8-26**]  05:02 PM
                             [**2156-8-27**]  04:00 AM
   WBC
   13.4
   17.5
   16.5
   13.8
   Hct
   34.5
   32.9
   30.4
   32.0
   Plt
   [**Telephone/Fax (3) 1348**]53
   Cr
   0.6
   0.7
   0.5
   0.5
   0.6
   0.6
   TCO2
   35
   33
   31
   32
   Glucose
   113
   112
   129
   146
   175
   162
   117
   110
   Other labs: PT / PTT / INR:15.4/31.1/1.4, Differential-Neuts:75.3 %,
   Lymph:16.9 %, Mono:2.2 %, Eos:4.7 %, Lactic Acid:1.1 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   56 year old man with severe traumatic brain injury (left basilar skull
   fx w/ right SDH and SAH)  now with tachypnea and difficulty protecting
   airway as well as fevers of unclear etiology.
   1.  Airway compromise: improved with oral airway, but unable to
   maintain patent airway due to mental status and was intubated on [**8-24**];
   per neurosurgery, this may improve with time, but will likely be a slow
   improvement.  Can consider extubation today as pt is more alert and
   able to communicate.  If cannot extubate may need tracheostomy.
   - pulmonary toilet
   - An ABG this morning is reassuring for extubation
   2. Tachypnea: resolved.  Was likely due to fevers and aspiration; no
   evidence of pneumonitis/pneumonia on chest imaging; ABG wnl
   - fever control
   3. Fevers: source unclear; diarrhea raises concern for C Diff; CT scan
   with fluid collection at wound but, per neurosurgery, it appears
   consistent with post-operative change
   - appreciate ID recs
   - cont empiric vanco and pip/tazo; d/c metronidazole as c.diff toxins
   neg
   - NGTD for blood and urine cultures; continue to follow
   - Sputum from [**8-24**] showed hemophilus as well as GPC in pairs.  Culture
   from [**8-26**] shows only GPC in pairs.
   4. Traumatic brain injury:
   - cont levetiracetam for seizure prophylaxis
   5. Hypernatremia: resolved .  increased free H2O in tube feeds
   6. Coagulopathy: likely nutritional, improving.  INR 1.4
   - PO vitamin K
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2156-8-26**] 02:00 PM
   18 Gauge - [**2156-8-26**] 10:06 PM
   Prophylaxis:
   DVT: sub q hep, pneumo boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-08-27 12:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man s/p head trauma, respiratory failures, fevers.
   24 Hour Events:
 MIDLINE - START [**2156-8-26**] 02:00 PM
 BLOOD CULTURED - At [**2156-8-26**] 08:55 PM
 URINE CULTURE - At [**2156-8-26**] 08:56 PM
 BLOOD CULTURED - At [**2156-8-27**] 04:11 AM
 SPUTUM CULTURE - At [**2156-8-27**] 04:11 AM
 URINE CULTURE - At [**2156-8-27**] 04:11 AM
 FEVER - 101.1
F - [**2156-8-26**] 08:00 AM
   MS continues to wax and wane
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2156-8-26**] 05:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-27**] 06:08 AM
   Vancomycin - [**2156-8-27**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-8-27**] 06:08 AM
   Other medications:
   protonix
   keppra
   chlorhex
   vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-27**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.4
C (97.5
   HR: 70 (60 - 78) bpm
   BP: 132/67(84) {96/55(72) - 152/91(104)} mmHg
   RR: 30 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,634 mL
                                                                    517 mL
   PO:
             TF:
                                                                    888 mL
   IVF:
                                                                    556 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    830 mL
   Urine:
                                                                  2,920 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -286 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 330 (330 - 540) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/45/90.[**Numeric Identifier 126**]/28/6
   Ve: 10.1 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   453 K/uL
   110 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   16 mg/dL
   107 mEq/L
   145 mEq/L
   32.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2156-8-20**]  02:06 AM
                             [**2156-8-20**]  02:21 AM
                             [**2156-8-24**]  08:20 PM
                             [**2156-8-25**]  03:18 AM
                             [**2156-8-25**]  03:30 AM
                             [**2156-8-25**]  04:03 PM
                             [**2156-8-26**]  03:44 AM
                             [**2156-8-26**]  05:02 PM
                             [**2156-8-27**]  04:00 AM
                             [**2156-8-27**]  07:56 AM
   WBC
   13.4
   17.5
   16.5
   13.8
   Hct
   34.5
   32.9
   30.4
   32.0
   Plt
   [**Telephone/Fax (3) 1348**]53
   Cr
   0.6
   0.7
   0.5
   0.5
   0.6
   0.6
   TCO2
   33
   31
   32
   32
   Glucose
   113
   112
   129
   146
   175
   162
   117
   110
   Other labs: PT / PTT / INR:15.4/31.1/1.4, Differential-Neuts:75.3 %,
   Lymph:16.9 %, Mono:2.2 %, Eos:4.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Respiratory failure:  Improved MS, still waxing and [**Doctor Last Name 533**], but
   sometimes following commands.   WIll try and extubate.
   Fevers:  Continue antibiotics.
   Head trauma:  Reasonable chance for recovery of MS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2156-8-26**] 02:00 PM
   18 Gauge - [**2156-8-26**] 10:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Other)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2156-08-28 02:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2156-8-26**] 02:00 PM
 BLOOD CULTURED - At [**2156-8-26**] 08:55 PM
 URINE CULTURE - At [**2156-8-26**] 08:56 PM
 BLOOD CULTURED - At [**2156-8-27**] 04:11 AM
 SPUTUM CULTURE - At [**2156-8-27**] 04:11 AM
 URINE CULTURE - At [**2156-8-27**] 04:11 AM
 FEVER - 101.1
F - [**2156-8-26**] 08:00 AM
   Extubated yesterday.  Did well.  Was more alert and able to communicate
   with daughters and staff.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2156-8-26**] 05:46 AM
   Vancomycin - [**2156-8-27**] 07:44 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-27**] 11:39 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-8-27**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-28**] 02:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 64 (61 - 75) bpm
   BP: 128/66(78) {113/59(73) - 146/77(94)} mmHg
   RR: 19 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,185 mL
                                                                     27 mL
   PO:
             TF:
   IVF:
                                                                    940 mL
                                                                     27 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                     50 mL
   Urine:
                                                                  1,385 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (330 - 435) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 89
   SpO2: 97%
   ABG: 7.45/45/90.[**Numeric Identifier 126**]/28/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 257
   Physical Examination
   Gen: opens eyes spontaneously and to voice; able to follow occasional
   simple commands
   Neck: Incision C,D,I.  No induration or fluctuance
   Pulm: coarse bs bilat but improving
   CV: reg rhythm
   Neuro: grimaces to pain in left UE, moves/makes fist with RUE.  Moves
   both feet, R>L.
   Labs / Radiology
   453 K/uL
   10.7 g/dL
   110 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   16 mg/dL
   107 mEq/L
   145 mEq/L
   32.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2156-8-20**]  02:06 AM
                             [**2156-8-20**]  02:21 AM
                             [**2156-8-24**]  08:20 PM
                             [**2156-8-25**]  03:18 AM
                             [**2156-8-25**]  03:30 AM
                             [**2156-8-25**]  04:03 PM
                             [**2156-8-26**]  03:44 AM
                             [**2156-8-26**]  05:02 PM
                             [**2156-8-27**]  04:00 AM
                             [**2156-8-27**]  07:56 AM
   WBC
   13.4
   17.5
   16.5
   13.8
   Hct
   34.5
   32.9
   30.4
   32.0
   Plt
   [**Telephone/Fax (3) 1348**]53
   Cr
   0.6
   0.7
   0.5
   0.5
   0.6
   0.6
   TCO2
   33
   31
   32
   32
   Glucose
   113
   112
   129
   146
   175
   162
   117
   110
   Other labs: PT / PTT / INR:15.4/31.1/1.4, Differential-Neuts:75.3 %,
   Lymph:16.9 %, Mono:2.2 %, Eos:4.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   56 year old man with severe traumatic brain injury (left basilar skull
   fx w/ right SDH and SAH)  now with tachypnea and difficulty protecting
   airway as well as fevers of unclear etiology.
   1.  Airway compromise: improved with oral airway, but unable to
   maintain patent airway due to mental status and was intubated on [**8-24**];
   per neurosurgery, this may improve with time, but will likely be a slow
   improvement.  Can consider extubation today as pt is more alert and
   able to communicate.  If cannot extubate may need tracheostomy.
   - pulmonary toilet
   - An ABG this morning is reassuring for extubation
   2. Tachypnea: resolved.  Was likely due to fevers and aspiration; no
   evidence of pneumonitis/pneumonia on chest imaging; ABG wnl
   - fever control
   3. Fevers: source unclear; diarrhea raises concern for C Diff; CT scan
   with fluid collection at wound but, per neurosurgery, it appears
   consistent with post-operative change
   - appreciate ID recs
   - cont empiric vanco and pip/tazo; d/c metronidazole as c.diff toxins
   neg
   - NGTD for blood and urine cultures; continue to follow
   - Sputum from [**8-24**] showed hemophilus as well as GPC in pairs.  Culture
   from [**8-26**] shows only GPC in pairs.
   4. Traumatic brain injury:
   - cont levetiracetam for seizure prophylaxis
   5. Hypernatremia: resolved .  increased free H2O in tube feeds
   6. Coagulopathy: likely nutritional, improving.  INR 1.4
   - PO vitamin K
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2156-8-26**] 02:00 PM
   18 Gauge - [**2156-8-26**] 10:06 PM
   Prophylaxis:
   DVT:  subq heparin; pneumo boots
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: